US06803463B2
2-(4-Ethoxyphenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine
Titanium tetrachloride (26 mL) was added to a stirred suspension of 1-(4-ethoxyphenyl)-2-(4-methanesulfonyl-phenyl)-ethanone (75.0 g), N-amino-pyridazinium hexafluorophosphate (59.6 g) in DCM (1125 mL) at about 20° C. N-Methyl-pyrrolidinone (23 mL) was added and TMEDA (50 mL) was added over a period of about 4 hours and the reaction mixture heated at 40° C. for 4.5 hours. The reaction mixture was stirred at about 20° C. for about 2 hours and further TMEDA (93 mL) was added over about 15 minutes. The mixture was stirred for about 18 hours and iodine (63 g) was added. After about a further 5 hours, IMS (55 mL) was added, followed by 3.3M hydrochloric acid (1125 mL) and the layers were separated. The organic extract was further washed with 3.3M hydrochloric acid (375 mL), aqueous sodium carbonate solution (20% w/v, 375 mL), aqueous sodium thiosulfate solution (20% w/v, 2×375 mL) and aqueous sodium chloride solution (3% w/v, 2×375 mL). The organic extract was then concentrated by distillation to a residual volume of about 450 mL and iso-octane (about 187 mL) was added at about 38° C. The resultant slurry was cooled to about 0-5° C. and filtered. The crude product was washed with DCM/iso-octane (1:1, 2×150 mL) and iso-octane (400 mL), dried, and then dissolved in acetone (1200 mL). This solution was heated to about 50° C. and treated with charcoal (19 g) for about 1 hour before filtering. The charcoal was washed with hot acetone (750 mL) and the combined filtrates and washings were concentrated by distillation to a residual volume of about 825 mL. Further acetone (375 ml) was added to the concentrate, which was concentrated again to a residual volume of about 825 mL. Maintaining the temperature at about 50° C., water (450 mL) was added over about 1 hour, causing the product to crystallise. After cooling the slurry to about 0-5° C. the product was isolated by filtration, washed with chilled acetone/water (1:1, 2×150 mL), and dried in vacuo at 65° C. to give the title compound as a pale yellow crystalline solid (63.6 g, 68.6%), spectroscopically identical to the product of Example 7.

reactant | 1-(4-ethoxyphenyl)-2-(4-methanesulfonyl-phenyl)-ethanone | 75.0 g | C(C)OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C17H18O4S
reactant | N-amino-pyridazinium hexafluorophosphate | 59.6 g | F[P-](F)(F)(F)(F)F.N[N+]1=NC=CC=C1
reactant | TMEDA | 50 mL | CN(C)CCN(C)C | C6H16N2
reactant | TMEDA | 93 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 63 g | II | I2
reactant | hydrochloric acid | 3.3M, 1125 mL | Cl | ClH
solvent | DCM | 1125 mL | C(Cl)Cl | CH2Cl2
catalyst | Titanium tetrachloride | 26 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | N-Methyl-pyrrolidinone | 23 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(4-Ethoxyphenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine | 63.6 g, 68.6% | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2=C1C1=CC=C(C=C1)S(=O)(=O)C | C21H19N3O3S
